US09278931B2
N-(4-{trans-2-[(cyclopropylmethyl)amino]cyclopropyl}phenyl)-3-(trifluoromethyl)benzamide hydrochloride
To a solution of N-[4-(trans-2-aminocyclopropyl)phenyl]-3-(trifluoromethyl)benzamide hydrochloride (150 mg) in methanol (10 mL)/THF (10 mL) were added cyclopropanecarbaldehyde (38.3 mg) and sodium hydrogen carbonate (70.6 mg). The mixture was stirred at 60° C. for 1 hr, and ice-cooled to 0° C. and sodium borohydride (31.8 mg) was added. The mixture was stirred at room temperature for 2 hr, and ice-cooled to 0° C., and aqueous sodium hydrogen carbonate solution was added. The mixture was extracted with ethyl acetate, and the extract was washed with water and saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/methanol). To the obtained product was added 10% hydrochloric acid methanol solution, and the solvent was evaporated under reduced pressure. The residue was recrystallized from methanol/diisopropyl ether to give the title compound (79 mg).

reactant | N-[4-(trans-2-aminocyclopropyl)phenyl]-3-(trifluoromethyl)benzamide hydrochloride | 150 mg | Cl.N[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O
reactant | cyclopropanecarbaldehyde | 38.3 mg | C1(CC1)C=O | C4H6O
reactant | sodium hydrogen carbonate | 70.6 mg | C(O)([O-])=O.[Na+]
reactant | sodium borohydride | 31.8 mg | [BH4-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-(4-{trans-2-[(cyclopropylmethyl)amino]cyclopropyl}phenyl)-3-(trifluoromethyl)benzamide hydrochloride | 79 mg | Cl.C1(CC1)CN[C@H]1[C@@H](C1)C1=CC=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O | InChI=1S/C21H21F3N2O.ClH/c22-21(23,24)16-3-1-2-15(10-16)20(27)26-17-8-6-14(7-9-17)18-11-19(18)25-12-13-4-5-13;/h1-3,6-10,13,18-19,25H,4-5,11-12H2,(H,26,27);1H/t18-,19+;/m0./s1
